US04628057
(3S)-2-[(4-Chlorobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid benzylidenehydrazide
(3S)-1,2,3,4-Tetrahydro-β-carboline-3-carboxylic acid hydrazide (2.44 g) is dissolved in dimethylsulfoxide (30 ml) and thereto is added benzaldehyde (2 ml). The mixture is stirred at room temperature for 2 hours and thereto are added triethylamine (1.49 ml) and carbon disulfide (0.64 ml). The mixture is stirred at room temperature for one hour and thereto is added dropwise 4-chlorobenzyl chloride (1.7 g). The mixture is stirred at room temperature for 3 hours and thereto is added water. The mixture is extracted with ethyl acetate. The extract is washed with water, dried and distilled to remove the solvent to give the title compound (3.26 g, 59%), as pale yellow powder.

reactant | (3S)-1,2,3,4-Tetrahydro-β-carboline-3-carboxylic acid hydrazide | 2.44 g | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)NN | C12H14N4O
reactant | benzaldehyde | 2 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 1.49 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzyl chloride | 1.7 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | carbon disulfide | 0.64 ml | C(=S)=S | CS2
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (3S)-2-[(4-Chlorobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid benzylidenehydrazide | 3.26 g, 59% | C(C1=CC=CC=C1)=NNC(=O)[C@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SCC1=CC=C(C=C1)Cl | C27H23ClN4OS2
